US06436915B1
Synthesis of 3,5-Diamino-4-[(3-methoxyphenyl)hydrazono]pyrazole
The title compound was prepared using 100 mg (0.5 mmol) of 2-[(3-methoxyphenyl)-hydrazono]malononitrile, which was derived from m-anisidine (112 μL, 1.0 mmol) and malononitrile (1.5 mmol) as described in Example 8, and hydrazine hydrate. Precipitate formed in the reaction tube approximately 10 min after the addition of hydrazine hydrate. The resulting solid was isolated by filtration, recrystallized from ethanol, and dried to yield 25 mg (22%) of the title compound as a brownish orange solid.

reactant | 2-[(3-methoxyphenyl)-hydrazono]malononitrile | 0.5 mmol, 100 mg | COC=1C=C(C=CC1)NN=C(C#N)C#N | C10H8N4O
reactant | m-anisidine | 1.0 mmol, 112 μL | COC1=CC(=CC=C1)N | C7H9NO
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | 3,5-Diamino-4-[(3-methoxyphenyl)hydrazono]pyrazole | 25 mg, 22% | NC1=NN=C(C1=NNC1=CC(=CC=C1)OC)N | C10H12N6O
